US07566735B2
1-[4-(propyloxy)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
A mixture of 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (152 mg, 0.8 mmol), 1-bromo-4-(propyloxy)benzene (177 mg, 0.8 mmol), N,N-dimethylglycine (16 mg, 0.16 mmol), copper (I) iodide (16 mg, 0.08 mmol), potassium carbonate (235 mg, 1.7 mmol) in dimethylsulfoxide (3 ml) was heated in a microwave reactor at 180° C. for a total of 50 minutes. Fresh N,N-dimethylglycine (16 mg, 0.16 mmol) and copper (I) iodide (16 mg, 0.08 mmol) was added and heating continued at 180° C. for a further 30 minutes. The reaction mixture was then filtered through a 5 g sep-pack column with 40 ml 1:1 ethyl acetate in petroleum ether. The solvent was removed by rotary evaporation and the residue partitioned between ethyl acetate (20 ml) and water (20 ml). The organic layer was retained and washed with brine (2×10 ml), then dried over sodium sulphate. The solvent was removed by rotary evaporation and the sample purified by MDAP. The relevant fractions were combined and the solvent removed by rotary evaporation to give the title compound (23 mg, 9%).

reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 0.8 mmol, 152 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | 1-bromo-4-(propyloxy)benzene | 0.8 mmol, 177 mg | BrC1=CC=C(C=C1)OCCC | C9H11BrO
reactant | N,N-dimethylglycine | 0.16 mmol, 16 mg | CN(CC(=O)O)C | C4H9NO2
reactant | potassium carbonate | 1.7 mmol, 235 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylglycine | 0.16 mmol, 16 mg | CN(CC(=O)O)C | C4H9NO2
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.08 mmol, 16 mg | [Cu]I
catalyst | copper (I) iodide | 0.08 mmol, 16 mg | [Cu]I
product | 1-[4-(propyloxy)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 23 mg, 9% | C(CC)OC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C17H19F3N2O
